US06454965B1
Synthesis of trans-Diethyl 1,2,3,6-Tetrahydrophthalate
One hundred (100) parts by weight of a butadiene is dissolved into a solution of 153 parts of diethyl fumarate in 650 parts of benzene at 0° C. The reaction solution is then heated in a bomb at 50° C. for 24 hours. The solvent is removed by a distillation and the liquid crude product is purified by a fractional distillation under vacuum (b.p.: 102-105° C. at 2 mm);

reactant | butadiene | C=CC=C | C4H6
reactant | diethyl fumarate | C(\C=C\C(=O)OCC)(=O)OCC | C8H12O4
solvent | benzene | C1=CC=CC=C1 | C6H6
product | trans-Diethyl 1,2,3,6-Tetrahydrophthalate | C([C@H]1[C@H](C(=O)OCC)CC=CC1)(=O)OCC | C12H18O4
